US06277849B1
5 g of sodium are dissolved in 200 ml of methanol. 30.4 g of vanillin are metered into the resulting solution. The reaction mixture is stirred at room temperature for 30 minutes. 36 g of 1-chloromethylnaphthalene in 70 ml of methanol are then added and the reaction mixture is heated at reflux for 6 hours. The mixture is left to stand overnight and then introduced into 1 liter of water. Extraction is carried out twice using 700 ml of ethyl acetate each time. The organic phases are washed twice using 200 ml of ice-cold 2N sodium hydroxide solution each time and once with 200 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated, yielding 3-methoxy(naphthalen-1-ylmethoxy)-benzaldehyde, which can be purified by chromatography on silica gel with ethyl acetate/n-hexane 1:2 and recrystallisation from ethyl acetate/n-hexane, m.p. 98-99° C.

reactant | sodium | 5 g | [Na] | Na
reactant | vanillin | 30.4 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | 1-chloromethylnaphthalene | 36 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | water | 1 liter | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 70 ml | CO | CH4O
product | 3-methoxy(naphthalen-1-ylmethoxy)-benzaldehyde | COC=1C(=C(C=O)C=CC1)OCC1=CC=CC2=CC=CC=C12 | C19H16O3
